US07615642B2
Step B: N-methyl-1H-pyrrole-3-carboxamide
DIPEA (284 mg, 381 uL, 2.2 mmol) was added to a solution of 1H-pyrrole-3-carboxylic acid (111 g, 1.0 mmol) and methylamine hydrochloride (222 mg, 3.3 mmol) in DMF (10 mL) at 0° C. Stirring for 20 min, HATU (570 g, 1.5 mmol) was added at 0° C. The reaction mixture was stirred overnight at room temperature, diluted with EtOAc (100 mL), washed with H2O (3×10 mL) and dried over Na2SO4. The crude product was purified by MPLC using EtOAc on silica gel. Yield: 57 mg (46%). 1H NMR (400 MHz, CHLOROFORM-D) δ 2.89 (s, 3 H), 5.89 (s, 1 H), 6.36-6.44 (m, 1 H), 6.75-6.79 (m, 1 H), 7.34-7.40 (m, 1 H).

reactant | DIPEA | 2.2 mmol, 381 uL, 284 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1H-pyrrole-3-carboxylic acid | 1.0 mmol, 111 g | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | methylamine hydrochloride | 3.3 mmol, 222 mg | Cl.CN
reactant | HATU | 1.5 mmol, 570 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-methyl-1H-pyrrole-3-carboxamide | CNC(=O)C1=CNC=C1 | C6H8N2O
